US07157464B2
Synthesis of 1-(4-Bromo-3-methyl-phenyl)-piperazine hydrochloride
To a solution of 966 mg (4.0 mmol) of 1-(3-Methylphenyl)piperazine dihydrochloride in 9 mL of acetic acid and 1 mL of water at 0° C. was added 640 mg (4.0 mmol) of bromine. After 1 hour, the reaction was concentrated to an oil in vacuo, and the oil was partitioned between ethyl acetate and 1M NaOH. The phases were separated, and the ethyl acetate phase was washed once each with water and brine, dried over Na2SO4, filtered, and the filtrate was concentrated to an oil in vacuo. The oil was dissolved in a minimum volume of methanol, and the solution was acidified with 2M HCl in ether. The product was isolated by filtration. 1H NMR (D2O, 400 MHz) 7.37 (d, 1H), 6.85 (s, 1H), 6.76 (d, 1H), 3.37 (m, 8H), 2.17 (s, 3H) ppm.

reactant | 1-(3-Methylphenyl)piperazine dihydrochloride | 4.0 mmol, 966 mg | Cl.Cl.CC=1C=C(C=CC1)N1CCNCC1
reactant | bromine | 4.0 mmol, 640 mg | BrBr | Br2
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
solvent | water | 1 mL | O | H2O
product | 1-(4-Bromo-3-methyl-phenyl)-piperazine hydrochloride | Cl.BrC1=C(C=C(C=C1)N1CCNCC1)C | InChI=1S/C11H15BrN2.ClH/c1-9-8-10(2-3-11(9)12)14-6-4-13-5-7-14;/h2-3,8,13H,4-7H2,1H3;1H
